US06103766
Preparation of 2-[4-(4-chlorobenzenesulfonamido)phenyl]ethyl-1-propylamine (7)
Using procedure 4, 4-chlorobenzenesulfonyl chloride was added to 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine to give the title compound as a solid, m.p. 137-140° C.

reactant | 4-chlorobenzenesulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | 2-(4-aminophenyl)ethyl-1-(tert-butoxycarbonyl)propylamine | NC1=CC=C(C=C1)CCNC(CC)C(=O)OC(C)(C)C | C16H26N2O2
product | 2-[4-(4-chlorobenzenesulfonamido)phenyl]ethyl-1-propylamine | ClC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)CCNCCC | C17H21ClN2O2S
